US06174901B1
Step K: Preparation of 2-chloro-5-(3-methylphenyl)-4-(4-pyridyl)pyridine:
5-m-tolyl-1H-[4,4′]bipyridinyl-2-one (262 mg, 1.0 mmole) in POCl3 (5 mL) was heated to 105° C. for 12 hr. POCl3 was removed under reduced pressure. The residue was diluted with methylene chloride and was carefully quenched with aqueous sodium carbonate. Standard work up, followed by purification (silica gel, hexane/ethyl acetate) gave the title compound. MS (m/z): Calcd. C17H13N2Cl (M+): 280.5, found (M+H)+: 281.0 and 283.1.

reactant | 5-m-tolyl-1H-[4,4′]bipyridinyl-2-one | 1.0 mmole, 262 mg | C1(=CC(=CC=C1)C=1C(=CC(NC1)=O)C1=CC=NC=C1)C | C17H14N2O
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-(3-methylphenyl)-4-(4-pyridyl)pyridine | ClC1=NC=C(C(=C1)C1=CC=NC=C1)C1=CC(=CC=C1)C | C17H13ClN2
